US06358665B1
A solution of 62.2 g (0.08 mol) of tris-(4-butoxyphenyl) sulfonium nonafluorobutane sulfonate and 2.40 g (0.008 mol) of nonafluorobutane sulfonic acid in 200 ml of ethanol was refluxed for 8 hours with stirring. After evaporation of the solvent, the crude product of tris-(4-hydroxyphenyl) sulfonium nonafluorobutane sulfonate (yield about 100%) was dissolved in 160 g of N,N-dimethylformamide and reacted with 55.4 g (0.40 mol) of anhydrous potassium carbonate and 60.3 g (0.40 mol) of t-butyl chloroacetate at 80° C. for 3 hours. The cooled reaction mixture was poured into 700 ml of water and extracted with dichloromethane. The organic phase was washed with water and dried. The solvent was removed. The oily residue was purified by column chromatography on silica gel using a dichloromethane and methanol as the eluent. The white product was collected to yield 34.4 g (yield 45%) of analytically pure tris-(4-t-butoxycarbonylmethoxyphenyl) sulfonium nonafluorobutane sulfonate. The 1H-NMR spectrum gave the following signals (CDCl3): δ=1.45 (s, 27H), 4.76 (s, 6H), 7.15-7.18 (d, 6H). 7.74-7.87 (d, 6H).

reactant | tris-(4-butoxyphenyl) sulfonium nonafluorobutane sulfonate | 0.08 mol, 62.2 g | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.C(CCC)OC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)OCCCC)C1=CC=C(C=C1)OCCCC
reactant | nonafluorobutane sulfonic acid | 0.008 mol, 2.40 g | FC(C(C(C(S(=O)(=O)O)(F)F)(F)F)(F)F)(F)F | C4HF9O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 160 g | CN(C=O)C | C3H7NO
product | tris-(4-hydroxyphenyl) sulfonium nonafluorobutane sulfonate | yield about 100% | FC(C(C(C(S(=O)(=O)[O-])(F)F)(F)F)(F)F)(F)F.OC1=CC=C(C=C1)[S+](C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | InChI=1S/C18H14O3S.C4HF9O3S/c19-13-1-7-16(8-2-13)22(17-9-3-14(20)4-10-17)18-11-5-15(21)6-12-18;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h1-12H,(H2-,19,20,21);(H,14,15,16)
